US04284577
To a solution of 800 mg of 24,24-difluoro-5β-cholestane-3α,25-diol (Va) in 32 ml of tert-butyl alcohol, 15 ml of water, 200 μl of 48% hydrobromic acid and 800 mg of N-bromoacetamide were added. After stirring at room temperature for 3 days, ethyl acetate was added to the reaction mixture, which was then washed sequentially with 0.5% aqueous sodium thiosulfate and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resulting residue was purified through a short column (5 g of silica gel) to produce 950 mg of a crude product. The product was recrystallized from ether/hexane to produce 4β-bromo-24,24-difluoro-25-hydroxy-5β-cholestan-3-one.

reactant | 24,24-difluoro-5β-cholestane-3α,25-diol | 800 mg | FC(C(C)(C)O)(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)F | C27H46F2O2
reactant | N-bromoacetamide | 800 mg | BrNC(C)=O | C2H4BrNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butyl alcohol | 32 ml | C(C)(C)(C)O | C4H10O
solvent | water | 15 ml | O | H2O
solvent | hydrobromic acid | 200 μl | Br | BrH
product | 4β-bromo-24,24-difluoro-25-hydroxy-5β-cholestan-3-one | Br[C@@H]1[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)O)(F)F)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C27H43BrF2O2
